US05077380
C. Synthesis of 4-Hydroxy-4'-aminostilbene
A portion (20.9 grams, 0.0866 mole) of 4-nitro-4'-hydroxystilbene from B. above and ethanol (300 mL) are added to a 400 milliliter heavy walled glass bottle then sparged with nitrogen. After removal of air by nitrogen sparging, Raney nickel catalyst (2.5 grams of a 50% wt. slurry in water at pH 10) is washed one time with ethanol, then added to the slurry in the glass bottle which is then stoppered and multiply purged with hydrogen to replace the nitrogen atmosphere. The bottle is then placed on a shaking type agitator, and pressurized to 46.5 psig (320.6 kPa) hydrogen. Shaking of the pressurized slurry at room temperature (25° C.) commences until 28.5 hours later, the hydrogen pressure reading indicates that 19.6 psig (135.1 kPa) of hydrogen has been consumed. The product slurry is recovered, diluted into dimethylsulfoxide (150 grams) to provide a solution of product containing precipitated Raney nickel, then filtered through a medium porosity fritted glass funnel. The recovered dimethylsulfoxide product solution is rotary evaporated at 130° C. under vacuum to provide a powder product. The powder product is further dried at 100° C. under vacuum of 2 mm Hg to a constant weight of 18.17 grams (99.25% isolated yield) of orange brown colored powder. Fourier transform infrared spectrophotometric analysis of a potassium chloride pellet of a portion of the product revealed the presence of absorbances at 3363 (sharp) and 3289 cm-1 (sharp) due to primary amine N--H group stretching and hydroxyl group O--H stretching, complete disappearance of the conjugated nitro group absorbances at 1516 and 1337 (1317 shoulder) cm-1 (sharp) and the ethylene C--H out-of-plane deformation at 965 cm-1. Nuclear magnetic resonance spectroscopy confirmed the integrity of the stilbene ethylenic unsaturated structure.

reactant | 4-nitro-4'-hydroxystilbene | 0.0866 mole, 20.9 grams | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=CC=C(C=C1)O | C14H11NO3
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 4-Hydroxy-4'-aminostilbene | OC1=CC=C(C=C1)C=CC1=CC=C(C=C1)N | C14H13NO
